US05824691
The mixture of methyl 3-(3-dimethylaminopropenoyl)benzoate (1.4 g), formamidine-acetate (2.8 g) and 28% methanolic sodium methoxide (5.2 ml) in methanol (38 ml) was heated under reflux for 64 hours under stirring. The solvent was removed by concentration and to the residue was added water. The mixture was adjusted to pH 9 with 20% aqueous potassium carbonate solution and the mixture was extracted with ethyl acetate. The extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with the solution of diisopropyl ether and n-hexane and the precipitate was collected by filtration to give methyl 3-(pyrimidin-4-yl)benzoate (0.8 g).

reactant | methyl 3-(3-dimethylaminopropenoyl)benzoate | 1.4 g | CN(C=CC(=O)C=1C=C(C(=O)OC)C=CC1)C | C13H15NO3
reactant | formamidine-acetate | 2.8 g | CC(=O)O.C(=N)N
reactant | sodium methoxide | 5.2 ml | C[O-].[Na+]
solvent | methanol | 38 ml | CO | CH4O
product | methyl 3-(pyrimidin-4-yl)benzoate | 0.8 g | N1=CN=C(C=C1)C=1C=C(C(=O)OC)C=CC1 | C12H10N2O2
